### PR TITLE
fix: reject empty SegWit witness encoding

### PR DESCRIPTION
**Pull request by starius**
[BIP-144](https://bips.dev/144/) says:

> If the witness is empty, the old serialization format must be used.

Reflect that rule in the Tx model by requiring SegWit transactions to have at least one non-empty witness stack, and make the decoder reject marker/flag encodings whose witness stacks are all empty.

:robot: Assisted-By: Codex gpt-5.5

### CODE REVIEW

**Comment by ProofOfKeags** [comment]
@claude Do a first round review of this.

File: BtcVerified/Transaction/Tx.lean [hunk 1]
```diff
@@ -49,6 +55,36 @@ namespace BtcVerified
 
 open BtcVerified.Serialize
 
+/-! ## SegWit input lists -/
+
+/-- Whether a per-input witness stack contains at least one stack item. BIP144
+allows individual empty witness stacks, but the SegWit marker/flag transaction
+form is only canonical when the transaction's witness as a whole is non-empty. -/
+def witnessStackHasItems (wit : WitnessStack) : Bool :=
+  !wit.val.isEmpty
```
Comment (ProofOfKeags) [inline BtcVerified/Transaction/Tx.lean]: Unless you see a reason to do otherwise, I'd recommend reformulating this propositionally instead of as a boolean predicate.

File: BtcVerified/Transaction/Tx.lean [hunk 2]
```diff
@@ -49,6 +55,36 @@ namespace BtcVerified
...
+
+/-- Whether a list of per-input witness stacks contains any actual witness data.
+BIP144's serialization rule is: if this is false, the transaction must use the
+old non-witness serialization format. -/
+def witnessListHasWitness (wits : List WitnessStack) : Bool :=
+  wits.any witnessStackHasItems
```
Comment (ProofOfKeags) [inline BtcVerified/Transaction/Tx.lean]: Same here regarding propositional formulation.

File: BtcVerified/Transaction/Tx.lean [hunk 3]
```diff
@@ -49,6 +55,36 @@ namespace BtcVerified
...
+/-- The witnesses of a SegWit transaction in input order — the witness region of
+the wire format. -/
+def segwitWitnesses (ins : CountedList SegwitInput) : List WitnessStack :=
+  ins.val.map SegwitInput.witness
+
+/-- Whether a SegWit input list has the non-empty witness required by BIP144 for
+marker/flag serialization. Empty stacks for non-witness-program inputs are fine;
+at least one stack in the transaction must be non-empty. -/
+def segwitHasWitness (ins : CountedList SegwitInput) : Bool :=
+  witnessListHasWitness (segwitWitnesses ins)
```
Comment (ProofOfKeags) [inline BtcVerified/Transaction/Tx.lean]: Same here regarding propositional formulation.

File: BtcVerified/Transaction/Tx.lean [hunk 4]
```diff
@@ -58,14 +94,19 @@ wire.
...
   /-- A legacy (pre-SegWit) transaction: a witness-free body with non-empty
   inputs. -/
   | legacy (body : TxBody) (inputsNonempty : body.inputs.val ≠ [])
-  /-- A BIP144 SegWit transaction: each input bundled with its witness. -/
+  /-- A BIP144 SegWit transaction: each input bundled with its witness, and at
+  least one witness stack non-empty so the marker/flag serialization is
+  canonical. -/
   | segwit (version : UInt32) (inputs : CountedList SegwitInput)
       (outputs : CountedList TxOut) (lockTime : UInt32)
+      (hasWitness : segwitHasWitness inputs = true)
```
Comment (ProofOfKeags) [inline BtcVerified/Transaction/Tx.lean]: under a propositional encoding this might look like this

(hWitness : ∃ i, i ∈ inputs ∧ NonEmptyWitnessStack)

which I think is more useful in general

File: BtcVerified/Transaction/Tx.lean [hunk 5]
```diff
@@ -196,7 +276,10 @@ def decodeSegwit (version : UInt32) (bs : List UInt8) : Option (Tx × List UInt8
       | some (wits, r3) =>
         match Codec.decode (α := UInt32) r3 with
         | none => none
-        | some (lockTime, r4) => some (.segwit version (zipInputs txins wits) outs lockTime, r4)
+        | some (lockTime, r4) =>
+          match Tx.segwit? version txins outs lockTime wits with
+          | none => none
+          | some tx => some (tx, r4)
```
Comment (ProofOfKeags) [inline BtcVerified/Transaction/Tx.lean]: this will likely need rebasing with the bind refactor that landed this morning.

File: BtcVerified/Transaction/Tx.lean [hunk 6]
```diff
@@ -179,11 +210,60 @@ def encodeSegwitBody (ins : CountedList SegwitInput) (outs : CountedList TxOut)
...
+
+/-- Any transaction produced by `Tx.segwit?` is exactly the zipped SegWit
+transaction, and the witness list has the same length as the input list. -/
+theorem Tx.segwit_of_segwit? {version : UInt32} {txins : CountedList TxIn}
+    {outs : CountedList TxOut} {lockTime : UInt32}
+    {wits : List WitnessStack} {tx : Tx}
+    (h : Tx.segwit? version txins outs lockTime wits = some tx) :
+    ∃ (_ : wits.length = txins.val.length)
+      (hasWitness : segwitHasWitness (zipInputs txins wits) = true),
+      tx = .segwit version (zipInputs txins wits) outs lockTime hasWitness := by
```
Comment (ProofOfKeags) [inline BtcVerified/Transaction/Tx.lean]: I'd recommend against this kind of formulation, I think. I'm open to discussion here but generally we'd like to shy away from partial smart constructors and instead state the constructors over stronger assumptions, and summoning the requisite hypotheses directly. If you look at the constructor as is there are two conditions that cause it to null its response:
1. the existence of a single nonempty witness stack in any input to the transaction
2. cardinality mismatch between inputs and witnesses: `|txins| ≠ |wits|`

**Review by ProofOfKeags — CHANGES_REQUESTED** [review]
First off, thank you for taking a look at the project and taking a stab at improving it!

Overall I like what this PR is trying to do. The general change I'd like to see with it is a move away from traditional programming language idiom and towards theorem proving convention.

"isX" and "hasY" naming conventions are common in traditional programming but the "correct" way to handle property assertions is to omit the boolean comparison completely if possible.

Example
```lean
def NonEmpty (wit : WitnessStack) : Prop := ...
```

Here we are describing a property (Prop) that a WitnessStack may or may not have (NonEmpty) and building from there. There are two reasons for this:
1. Proof erasure: prop valued things don't exist at runtime so we can do structural analysis of code without impacting how a running version of that code might perform.
2. Readability: binding properties idiomatically to the structures they describe reduces naming cruft.

GENERAL NOTE: As a fair warning I am going to be very particular about naming because the purpose of this project is to crystallize a clear understanding of the protocol which means that its primary purpose is to communicate with other readers of the source code as well as machine check truth statements about how the protocol works, and only has a secondary role of creating machine executable code. As such, "it works, who cares whether the names are perfect?" is not a valid argument and I will aggressively police naming in this repository. I will do my best to patiently explain my rationale as it isn't purely arbitrary. This does not mean I'm not open to disagreement, but I do ask for you to bear with me as the nitpicking isn't for no reason.

**Comment by starius** [comment]
Hi @ProofOfKeags ! Thanks for the feedback!
I attempted to address it, reformulating from a general programming language style to theorem proving language. I'm still learning Lean, so it might still be sub-optimal, so your further feedback is welcomed!

My goal is to learn the language and the approach deeper. I think this is very promising for security: eventually being able to state protocol invariants explicitly, prove that the formalized model or implementation satisfies them, and check those proofs automatically. Thank you for developing this interesting area!

File: BtcVerified/Transaction/Tx.lean [hunk 7]
```diff
@@ -49,6 +55,88 @@ namespace BtcVerified
 
 open BtcVerified.Serialize
 
+/-! ## SegWit input lists -/
+
+/-- A witness stack contains actual witness data exactly when it has at least
+one stack item. The item itself may be empty; Bitcoin Core's null-witness test
+is about the stack item count. -/
+def NonEmptyWitnessStack (wit : WitnessStack) : Prop :=
+  wit.val ≠ []
```
Comment (ProofOfKeags) [inline BtcVerified/Transaction/Tx.lean]: Another thing worth noting is that we shouldn't need to say "WitnessStack" in the prop. Since this prop is stated over WitnessStack (the type), it should be possible to state this as NonEmpty and put it inside the WitnessStack namespace. But this is a step in the right direction.

File: BtcVerified/Transaction/Tx.lean [hunk 8]
```diff
@@ -49,6 +55,88 @@ namespace BtcVerified
...
+
+instance instDecidableSegwitInputNonEmptyWitness (input : SegwitInput) :
+    Decidable input.NonEmptyWitness := by
+  unfold SegwitInput.NonEmptyWitness
+  infer_instance
+
+/-- A SegWit input list has witness data when at least one bundled input has a
+non-empty witness stack. -/
+def SegwitInputListNonEmptyWitness (inputs : List SegwitInput) : Prop :=
+  ∃ input, input ∈ inputs ∧ input.NonEmptyWitness
```
Comment (ProofOfKeags) [inline BtcVerified/Transaction/Tx.lean]: This name is going to need to be changed. It's too unruly. My thoughts here are that this is useful because the presence of any input with a nonempty witness stack makes this not legacy encodable. I think it's worth asking the question as to whether a SegwitInput should ever be able to have a non-empty witness stack.

Comment (ProofOfKeags) [reply BtcVerified/Transaction/Tx.lean]: Going back through BIP144 I wonder if this is the right place to state this property. As you note in your PR header the claim from the bip is that if the witness region of the transaction is empty then the old format must be used, so the property is actually being stated over the transaction, not over the input list. The subtle distinction here is that we zip up the witness data into the input list in our internal representation.

Indeed this property can be stated over the input list alone as you've done, but the naming becomes difficult, which suggests we don't have a good way to talk about this in Bitcoin already.

I don't want to force you to rework the entire PR around this as I'm not confident about it but perhaps for now let's rename this property

WitnessDataBearing

or something like that.

File: BtcVerified/Transaction/Tx.lean [hunk 9]
```diff
@@ -87,16 +180,6 @@ def Tx.body : Tx → TxBody
...
-/-- The underlying inputs of a SegWit transaction, witnesses dropped — the input
-vector as it appears in the inputs region of the wire format. -/
-def segwitInputs (ins : CountedList SegwitInput) : CountedList TxIn :=
-  ⟨ins.val.map SegwitInput.input, by rw [List.length_map]; exact ins.property⟩
-
-/-- The witnesses of a SegWit transaction in input order — the witness region of
-the wire format. -/
-def segwitWitnesses (ins : CountedList SegwitInput) : List WitnessStack :=
-  ins.val.map SegwitInput.witness
-
```
Comment (ProofOfKeags) [inline BtcVerified/Transaction/Tx.lean:99]: It looks like you just moved this? Please don't do that unless it's in a single commit that only moves code.

File: BtcVerified/Transaction/Tx.lean [hunk 10]
```diff
@@ -49,6 +55,88 @@ namespace BtcVerified
...
+              cases hmem with
+              | head =>
+                exact hhead hnonempty
+              | tail _ hmemTail =>
+                exact htail ⟨found, hmemTail, hnonempty⟩)
+
+/-- A SegWit input list satisfies BIP144's marker/flag precondition when at
+least one input carries witness data. -/
+def SegwitInputsNonEmptyWitness (ins : CountedList SegwitInput) : Prop :=
+  SegwitInputListNonEmptyWitness ins.val
```
Comment (ProofOfKeags) [inline BtcVerified/Transaction/Tx.lean]: It seems like this is the real definition we want. If you notice we don't use that internal definition anywhere, this is the one that gets invoked everywhere else and the inner definition it invokes isn't useful so I'd inline that definition here.

Basic principle: if you can't come up with an elegant name for something, it's probably not a good candidate for its own concept or definition. In this case there's one real concept here that has been broken apart into two definitions and it is really difficult to come up with two reasonable, intuitive, and sufficiently distinct names for.

**Review by ProofOfKeags — CHANGES_REQUESTED** [review]
We're closer. The prop formulation change was good and exactly what we needed, now it's just minor cleanup.

File: BtcVerified/Transaction/Tx.lean (hunk 10 above)
Comment (starius) [reply BtcVerified/Transaction/Tx.lean]: Fixed.

File: BtcVerified/Transaction/Tx.lean (hunk 9 above)
Comment (starius) [reply BtcVerified/Transaction/Tx.lean:99]: Fixed. No code movement in the latest version.

File: BtcVerified/Transaction/Tx.lean (hunk 8 above)
Comment (starius) [reply BtcVerified/Transaction/Tx.lean]: Fixed. It is now shorter and namespaced: `SegwitInputList.HasWitness`.
Do you think WitnessDataBearing is a better fit than HasWitness?

File: BtcVerified/Transaction/Tx.lean (hunk 7 above)
Comment (starius) [reply BtcVerified/Transaction/Tx.lean]: Fixed. It is now `WitnessStack.NonEmpty`.

File: BtcVerified/Transaction/Tx.lean (hunk 8 above)
Comment (ProofOfKeags) [reply BtcVerified/Transaction/Tx.lean]: I can live with HasWitness here. Something bothers me about it still but until I can put my finger on it I don't think it's worth blocking the PR.

Comment (ProofOfKeags) [reply BtcVerified/Transaction/Tx.lean]: That said, I'm opposed to introducing yet another concept: SegwitInputList for this. This should be stated over an already existing structure. The name "HasWitness" is ok though.

File: BtcVerified/Transaction/Tx.lean [hunk 11]
```diff
@@ -49,6 +55,67 @@ namespace BtcVerified
...
+        intro hne
+        exact hne rfl)
+  | cons _ _ =>
+      exact isTrue (by
+        intro hnil
+        cases hnil)
+
+end WitnessStack
+
+namespace SegwitInputList
```
Comment (ProofOfKeags) [inline BtcVerified/Transaction/Tx.lean]: Yeah this isn't something I want. If we allow every layer of the entire data structure set, or every combo of different product components to leak into the namespace it gets unruly fast. The reality is that SegwitInputList isn't its own concept. The top level property you're after is really about ensuring that transactions that would have empty witness regions are encoded in the legacy format. There is no "segwit input list" as a concept. It is a computational artifact. Perhaps this necessitates the reworking of how our serialization discipline works and whether or not we even have separate sum type arms for segwit vs not. However since they get evaluated qualitatively differently by consensus my hunch is to keep them.

The properties this PR has the goal of defining are probably something like:
1. segwit encoded transactions with empty witness regions are non-canonical ← stateable now
2. non-canonical transactions are invalid ← requires notions of validity which are forthcoming

File: BtcVerified/Transaction/Tx.lean (hunk 8 above)
Comment (starius) [reply BtcVerified/Transaction/Tx.lean]: I removed `SegwitInputList`.

File: BtcVerified/Transaction/Tx.lean (hunk 11 above)
Comment (starius) [reply BtcVerified/Transaction/Tx.lean]: Fixed. The condition is now stated directly:
```lean
(hWitness : ∃ input, input ∈ inputs.val ∧ input.witness.NonEmpty)
```

**Comment by starius** [comment]
Rebased.

I pushed a wrong commit by mistake (the current `master`) resulting in PR closure. Sorry for the mess! Now it is fixed.

**Review by ProofOfKeags — APPROVED** [review]
